US08236952B2
In a dry 3-necked, round bottomed flask, equipped with a magnetic stirrer, a thermometer, a nitrogen inlet tube and the dropping funnel containing the orotoyl chloride solution, 6.56 g (56 mmol) of Valine is suspended, with stirring, in 50 mL of dry DCM. To this suspension a catalytic amount (˜0.1 mmol) of DMAP is also added. The suspension is stirred in a dry ice and acetone bath to a temperature of about −15° C. When the target temperature is reached the drop wise addition of orotoyl chloride is commenced. Addition of orotoyl chloride continues, with constant cooling and stirring, until all of the orotoyl chloride is added, after which the reaction is allowed to warm to room temperature with constant agitation. The solution is then filtered to remove any remaining Valine and the volatile DCM is removed from the filtrate under reduced pressure, the remainder is then purified by flash chromatography (ethyl acetate/hexanes; 1/6), yielding 2-(2,6-dioxo-1,2,3,6-tetrahydropyrimidine-4-carboxamido)-3-methylbutanoic acid.

reactant | orotoyl chloride | C(C1=CC(=O)NC(=O)N1)(=O)Cl | C5H3ClN2O3
reactant | Valine | 56 mmol, 6.56 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | dry ice | C(=O)=O | CO2
reactant | acetone | CC(=O)C | C3H6O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | ˜0.1 mmol | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(2,6-dioxo-1,2,3,6-tetrahydropyrimidine-4-carboxamido)-3-methylbutanoic acid | O=C1NC(C=C(N1)C(=O)NC(C(=O)O)C(C)C)=O | C10H13N3O5
